US06462036B1
A solution of 3-(4-bromophenyl)-4H-indeno[1,2-c]pyrazole (2.0 g, 6.43 mmol) in dry THF (50 ml) was added to a stirred suspension of potassium hydride (35% wt dispersion in mineral oil, 0.365 g, 6.75 mmol) in dry THF (50 ml) in an atmosphere of nitrogen. After 10 mins the mixture was cooled to about −78° C. and tert-butyl lithium (1.5M solution in pentane, 8.78 ml, 13.18 mmol) was added and the mixture stirred for about 15 mins. A solution of tri-isopropylborate in THF (1.56 ml, 6.75 mmol) was added to the red solution and the mixture was allowed to warm up to room temp and stirred overnight. Hydrochloric acid (1M, 150 ml) was added and the solution stirred for about 30 mins and extracted with ether (3×200 ml). The combined ether extracts were then extracted with sodium hydroxide (3×100 ml). The combined alkaline extracts were acidified with hydrochloric acid (2M) and the precipitated off solid was filtered and dried at the pump to give dihydroxy 4-(4H-indeno-[1,2-c]pyrazol-3-yl)phenylborane (602 mg, 34%). Mpt >300° C.

reactant | 3-(4-bromophenyl)-4H-indeno[1,2-c]pyrazole | 6.43 mmol, 2.0 g | BrC1=CC=C(C=C1)C1=C2C(=NN1)C1=CC=CC=C1C2 | C16H11BrN2
reactant | potassium hydride | 6.75 mmol, 0.365 g | [H-].[K+]
reactant | tert-butyl lithium | 13.18 mmol, 1.5M, 8.78 ml | C(C)(C)(C)[Li]
reactant | tri-isopropylborate | C(C)(C)OB(OC(C)C)OC(C)C | C9H21BO3
reactant | Hydrochloric acid | 1M, 150 ml | Cl | ClH
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 6.75 mmol, 1.56 ml | C1CCOC1 | C4H8O
product | dihydroxy 4-(4H-indeno-[1,2-c]pyrazol-3-yl)phenylborane | 602 mg, 34% | OB(C1=CC=C(C=C1)C1=C2C(=NN1)C1=CC=CC=C1C2)O | C16H13BN2O2
